US07776864B2
Step 5: 4-(2-Bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
To a mixture of 1.0 g 2-bromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine and 0.48 g 4-formylphenylboronic acid in 10 ml 1,2-dimethoxyethane are added 6.2 ml of a 10% w/w sodium carbonate solution and 118 mg dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) and the resulting mixture is heated to 100° C. by microwave irradiation under a inert gas atmosphere for 50 min. The work up is performed by diluting the reaction mixture with water and dichloromethane, separating the phases and extraction of the aqueous phase with dichloromethane. The combined organic layers are dried over Na2SO4 and the solvent is evaporated. The crude product is purified by chromatography on silica gel (dichloromethane/ethyl acetate) to yield the desired product.

reactant | 2-bromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 1.0 g | BrC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)Cl)=N1 | C11H6BrClN4
reactant | 4-formylphenylboronic acid | 0.48 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 118 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-Bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | BrC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C18H11BrN4O
